### PR TITLE
Implement a decision procedure for memory reads/write via omega

### PR DESCRIPTION
**Pull request by bollu**
This reduces goals about memory to goals about natural numbers, with the hope of allowing the use of `omega` to dispatch such goals.

### CODE REVIEW

**Comment by bollu** [comment]
Hmm, by writing the "naive" definitions of `getLsb_read_mem_bytes, getLsb_write_mem_bytes`, I get the fairly horrific goal state:

```
⊢ (decide (↑i < 16 * 8) &&
    if src_addr + ↑↑i / 8 < dest_addr then (s0.mem (src_addr + ↑↑i / 8)).getLsb (↑i % 8)
    else
      if (src_addr + ↑↑i / 8).toNat ≥ dest_addr.toNat + 16 then (s0.mem (src_addr + ↑↑i / 8)).getLsb (↑i % 8)
      else (blah.extractLsB (src_addr + ↑↑i / 8 - dest_addr).toNat).getLsb (↑i % 8)) =
  (decide (↑i < 16 * 8) && (s0.mem (src_addr + ↑↑i / 8)).getLsb (↑i % 8))
```

which is not immediately `omega` able for sure.

**Comment by bollu** [comment]
```
n0 : Nat
src_addr dest_addr : BitVec 64
blah : BitVec (16 * 8)
s0 : ArmState
h_n0 : n0 ≠ 0
h_s0_src_dest_separate : mem_separate src_addr (src_addr + (↑(n0 <<< 4) - 1)) dest_addr (dest_addr + (↑(n0 <<< 4) - 1)) = true
h_no_wrap_dest_region : dest_addr.toNat ≤ (dest_addr.toNat + (18446744073709551615 + n0 <<< 4)) % 18446744073709551616
h_no_wrap_src_region : src_addr.toNat ≤ (src_addr.toNat + (18446744073709551615 + n0 <<< 4)) % 18446744073709551616
i : Fin (16 * 8)
h₁ : ¬src_addr + ↑↑i / 8 < dest_addr
h₂ : ¬(src_addr + ↑↑i / 8).toNat ≥ dest_addr.toNat + 16
⊢ False
```

we `exfalso` to get a proof state where we know we gotta prove false. See that the proof state says that `dest` is in between `src_addr + i/8` and `src+addr + i/8 + 16`. But this cannot happen, because we have a `mem_separate` clause. While indeed the conditions look terrible, that's more an artefact of how stuff is phrased. I think we can actually see this through!

File: Proofs/Experiments/MemoryAliasing.lean [hunk 1]
```diff
@@ -8,22 +8,586 @@ The goal is to eliminate the sorry, and to simplify the proof to a tactic invoca
...
+  match n with
+  | 0 => s
+  | n' + 1 =>
+    let byte := BitVec.extractLsb 7 0 val
+    let s := write_mem' addr byte s
+    let val_rest := BitVec.zeroExtend (n' * 8) (val >>> 8)
+    write_mem_bytes' n' (addr + 1#64) val_rest s
+
+/-- Defintion to extract the `n`th least significant *Byte* from a bitvector. -/
+def BitVec.extractLsB (val : BitVec w₁) (n : Nat) : BitVec 8 :=
```
Comment (tobiasgrosser) [inline Proofs/Experiments/MemoryAliasing.lean:138]:
```suggestion
/-- Definition to extract the `n`th least significant *Byte* from a bitvector. -/
def BitVec.extractLsB (val : BitVec w₁) (n : Nat) : BitVec 8 :=
```

File: Proofs/Experiments/MemoryAliasing.lean [hunk 2]
```diff
@@ -8,22 +8,586 @@ The goal is to eliminate the sorry, and to simplify the proof to a tactic invoca
...
+  simp [extractLsB]
+  rw [Nat.succ_mul]
+  simp only [Nat.add_one_sub_one]
+  simp [Nat.add_sub_cancel_left]
+
+/-- Writing zero bytes does not change memory. -/
+theorem write_mem_bytes'_zero : write_mem_bytes' 0 addr val s = s := rfl
+
+/-- Writiing (n + 1) bytes can be described as writing `n` bytes, and then recursing to write the rest. -/
+theorem write_mem_bytes'_succ :
```
Comment (tobiasgrosser) [inline Proofs/Experiments/MemoryAliasing.lean:157]:
```suggestion
/-- Writing (n + 1) bytes can be described as writing `n` bytes and then recursing to write the rest. -/
theorem write_mem_bytes'_succ :
```

File: Proofs/Experiments/MemoryAliasing.lean [hunk 3]
```diff
@@ -8,22 +8,586 @@ The goal is to eliminate the sorry, and to simplify the proof to a tactic invoca
...
+    write_mem_bytes' (n + 1) addr val s =
+    let byte := BitVec.extractLsb 7 0 val
+    let s := write_mem' addr byte s
+    let val_rest := BitVec.zeroExtend (n * 8) (val >>> 8) -- TODO: rewrite this as 'truncate'.
+    write_mem_bytes' n (addr + 1#64) val_rest s := rfl
+
+def write_mem_bytes'₂ (n : Nat) (addr : BitVec 64) (val : BitVec (n * 8)) (s : Memory) : Memory :=
```
Comment (tobiasgrosser) [inline Proofs/Experiments/MemoryAliasing.lean:164]: Subcripts like `₂` in a function name are very new to me.

File: Proofs/Experiments/MemoryAliasing.lean [hunk 4]
```diff
@@ -8,22 +8,586 @@ The goal is to eliminate the sorry, and to simplify the proof to a tactic invoca
...
+    · rw [BitVec.toNat_add_eq_toNat_add_toNat (by simp; omega)]
+      simp; omega
+
+-- bollu: The use of the identifier `w` in a non-scoped namespace brings me great pain, because
+-- I can't name my widths `w` anymore.
+theorem BitVec.gt_def {x y : BitVec w₁} : (x > y) = (x.toNat > y.toNat) := rfl
+
+-- bollu: The use of the identifier `w` in a non-scoped namespace brings me great pain, because
+-- I can't name my widths `w` anymore.
+theorem BitVec.ge_def {x y : BitVec w₁} : (x ≥ y) = (x.toNat ≥ y.toNat) := rfl
```
Comment (tobiasgrosser) [inline Proofs/Experiments/MemoryAliasing.lean:215]: I think this is worth upstreaming. In our code, we use just notation to keep the core calculus small:

```
notation:50 x " ≤ᵤ " y => BitVec.ule x y
notation:50 x " <ᵤ " y => BitVec.ult x y
notation:50 x " ≥ᵤ " y => BitVec.ule y x
notation:50 x " >ᵤ " y => BitVec.ult y x
```

File: Proofs/Experiments/MemoryAliasing.lean (hunk 3 above)
Comment (bollu) [reply Proofs/Experiments/MemoryAliasing.lean:164]: recall that this code is experimental, and exposes multiple definitions which we are experimenting with.

File: Proofs/Experiments/MemoryAliasing.lean (hunk 4 above)
Comment (bollu) [reply Proofs/Experiments/MemoryAliasing.lean:215]: I don't think the notation helps here: this theorem is really an equation lemma for `ge`. It would be useful to upstream, indeed.

**Comment by bollu** [comment]
```
set_option trace.simp_mem true in
set_option trace.simp_mem.info  true in
theorem mem_automation_test
  (h_s0_src_dest_separate : mem_separate' src_addr  16 dest_addr 16) :
  read_mem_bytes 16 src_addr (write_mem_bytes 16 dest_addr blah s0) =
  read_mem_bytes 16 src_addr s0 := by
  -- ⊢ read_mem_bytes 16 src_addr (write_mem_bytes 16 dest_addr blah s0) = read_mem_bytes 16 src_addr s0
  simp_mem
  -- ⊢ read_mem_bytes 16 src_addr s0 = read_mem_bytes 16 src_addr s0
  rfl

/-- info: 'mem_automation_test' depends on axioms: [propext, Classical.choice, Quot.sound] -/
#guard_msgs in #print axioms mem_automation_test
```

We can now automate this away.

File: Arm/BitVec.lean [hunk 5]
```diff
@@ -813,4 +813,86 @@ macro_rules
...
+  simp [h] at hx
+
+/-! ### (Non) Overflow Rewriting Lemmas
+
+@bollu: To be upstreamed.
+-/
+
+private theorem Nat.sub_add_eq_add_sub_of_le_of_le {a b c : Nat} (hab : b ≤ a) (hbc : b ≤ c) :
+    a - b + c = a + (c - b) := by
+  omega
```
Comment (alexkeizer) [inline Arm/BitVec.lean:832]: IIUC the ambient namespace is `BitVec`, where this def probably shouldn't be

File: Arm/BitVec.lean [hunk 6]
```diff
@@ -813,4 +813,86 @@ macro_rules
...
+  rw [BitVec.le_def] at h
+  by_cases h' : x.toNat = y.toNat
+  · rw [h', Nat.sub_self]
+    rw [Nat.sub_add_cancel (by omega), Nat.mod_self]
+  · rw [Nat.sub_add_eq_add_sub_of_le_of_le (by omega) (by omega), Nat.add_mod,
+      Nat.mod_self, Nat.zero_add, Nat.mod_mod, Nat.mod_eq_of_lt (by omega)]
+
+theorem neq_of_lt {x y : BitVec w₁} (h : x < y) : x ≠ y := by
+  intros h'
+  subst h'
```
Comment (alexkeizer) [inline Arm/BitVec.lean:847]:
```suggestion
  rintro rfl
```
Cute golf, feel free to ignore

File: Arm/BitVec.lean [hunk 7]
```diff
@@ -813,4 +813,86 @@ macro_rules
...
+  simp [BitVec.lt_def] at h
+
+theorem neq_of_gt {x y : BitVec w₁} (h : x > y) : x ≠ y := by
+  intros h'
+  subst h'
```
Comment (alexkeizer) [inline Arm/BitVec.lean:852]:
```suggestion
  rintro rfl
```
Cute golf, feel free to ignore

File: Arm/BitVec.lean [hunk 8]
```diff
@@ -813,4 +813,86 @@ macro_rules
...
+/-- adding bitvectors when there is no overflow. -/
+theorem toNat_add_eq_toNat_add_toNat {x y : BitVec w} (h : x.toNat + y.toNat < 2^w) :
+    (x + y).toNat = x.toNat + y.toNat := by
+  rw [BitVec.toNat_add, Nat.mod_eq_of_lt h]
+
+/-! ### Least Significant Byte -/
+
+/-- Definition to extract the `n`th least significant *Byte* from a bitvector. -/
+def extractLsB (val : BitVec w₁) (base : Nat) : BitVec 8 :=
+  val.extractLsb ((base + 1)*8 - 1) (base * 8) |>.cast (by omega)
```
Comment (alexkeizer) [inline Arm/BitVec.lean:865]:
```suggestion
def getByte (val : BitVec w₁) (base : Nat) : BitVec 8 :=
  val.extractLsb ((base + 1) * 8 - 1) (base * 8) |>.cast (by omega)
```

Having two names be equal modulo casing is way too confusing!
Since this accesses a single byte, its more akin to `getLsb`.
Furthermore, Core has `lsb`/`msb` because it wants to be endianness-agnostic, but in the context of LNSym it seems pretty safe to assume the endiannes of ARM to be default, and just call this `getByte`.

Also, spacing

File: Arm/BitVec.lean [hunk 9]
```diff
@@ -813,4 +813,86 @@ macro_rules
...
+
+theorem extractLsB_def (val : BitVec w₁) (n : Nat) :
+    val.extractLsB n = (val.extractLsb ((n + 1)*8 - 1) (n * 8) |>.cast (by omega)) := rfl
```
Comment (alexkeizer) [inline Arm/BitVec.lean:868]: Why do we need this lemma? It just unfolds the definition, no?

File: Arm/BitVec.lean [hunk 10]
```diff
@@ -813,4 +813,86 @@ macro_rules
...
+
+/-! ### Least Significant Byte range -/
+
+/-- grab 'n' least significant bytes, starting from index 'base'.
+@bollu: it's not clear if the definition for n=0 is desirable.
+-/
+def extractLsBs (val : BitVec w) (base : Nat) (n : Nat) : BitVec (n * 8) :=
+  match h : n with
+  | 0 => 0#0
+  | x + 1 => val.extractLsb (base * 8 + n * 8 - 1) (base * 8) |>.cast (by omega)
```
Comment (alexkeizer) [inline Arm/BitVec.lean:888]:
```suggestion
/-- grab 'n' least significant bytes, starting from index 'base'.
@bollu: it's not clear if the definition for n=0 is desirable.
-/
def extractBytes (val : BitVec w) (base : Nat) (n : Nat) : BitVec (n * 8) :=
  match h : n with
  | 0 => 0#0
  | x + 1 => val.extractLsb (base * 8 + n * 8 - 1) (base * 8) |>.cast (by omega)
```

See previous comment for naming rationale

File: Arm/State.lean [hunk 11]
```diff
@@ -121,15 +121,15 @@ def PState.zero : PState :=
...
+  sfp        : Store (BitVec 5) (BitVec 128)
   /-- Program Counter -/
-  private pc         : BitVec 64
+  pc         : BitVec 64
   /-- PState -/
-  private pstate     : PState
+  pstate     : PState
   /-- Memory: maps 64-bit addresses to bytes -/
-  private mem        : Store (BitVec 64) (BitVec 8)
+  mem        : Store (BitVec 64) (BitVec 8)
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply Arm/State.lean:132]: Maybe PR this separately, linking here for rationale?

File: Arm/Memory/Attr.lean [hunk 12]
```diff
@@ -0,0 +1,9 @@
+import Lean
+
+open Lean
+
+/-- Provides tracing for the `simp_mem` tactic. -/
+initialize Lean.registerTraceClass `simp_mem
+
+/-- Provides extremely verbose tracing for the `simp_mem` tactic. -/
+initialize Lean.registerTraceClass `simp_mem.info
```
Comment (alexkeizer) [inline Arm/Memory/Attr.lean:9]: I *think* you can write this in a single block, as
```
initialize
  /-- bla -/
  Lean.registerTraceClass ...
  /-- bla -/
  Lean.registerTraceClass ...
```

Matter of taste which is better, feel free to ignore

File: Arm/Memory/Separate.lean [hunk 13]
```diff
@@ -1,10 +1,10 @@
 /-
 Copyright (c) 2024 Amazon.com, Inc. or its affiliates. All Rights Reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Author(s): Shilpi Goel
+Author(s): Shilpi Goel, Siddharth Bhat
 -/
 import Arm.State
-
+import Arm.BitVec
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:7]:
```suggestion
import Arm.BitVec

```

File: Arm/Memory/Separate.lean [hunk 14]
```diff
@@ -115,6 +115,220 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+  - or, the first one starts after the second one ends `(a1 > b2)`,
+-/
+theorem lt_or_gt_of_mem_separate_of_mem_legal_of_mem_legal (h : mem_separate a1 a2 b1 b2)
+    (ha : mem_legal a1 a2) (hb : mem_legal b1 b2) :
+    a2 < b1 ∨ a1 > b2 := by
+  unfold mem_separate mem_overlap at h
+  simp at h
+  obtain ⟨⟨⟨h₁, h₂⟩, h₃⟩, h₄⟩ := h
+  simp [mem_legal] at ha hb
+  rw [BitVec.le_def] at ha hb
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:131]: non-terminal simps!

File: Arm/Memory/Separate.lean [hunk 15]
```diff
@@ -115,6 +115,220 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+it must be the case either:
+  - the first one ends before the second one starts (`a2 < b1`),
+  - or, the first one starts after the second one ends `(a1 > b2)`,
+-/
+theorem lt_or_gt_of_mem_separate_of_mem_legal_of_mem_legal (h : mem_separate a1 a2 b1 b2)
+    (ha : mem_legal a1 a2) (hb : mem_legal b1 b2) :
+    a2 < b1 ∨ a1 > b2 := by
+  unfold mem_separate mem_overlap at h
+  simp at h
+  obtain ⟨⟨⟨h₁, h₂⟩, h₃⟩, h₄⟩ := h
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:129]:
```suggestion
  obtain ⟨⟨⟨h₁, h₂⟩, h₃⟩, h₄⟩ := by simpa? using h
```
Cute golf (do remember to squeeze!)

File: Arm/Memory/Separate.lean [hunk 16]
```diff
@@ -115,6 +115,220 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+-/
+theorem mem_separate_of_lt_or_gt_of_mem_legal_of_mem_legal (h : a2 < b1 ∨ a1 > b2)
+    (ha : mem_legal a1 a2) (hb : mem_legal b1 b2) :
+    mem_separate a1 a2 b1 b2 := by
+  unfold mem_separate mem_overlap
+  simp
+  unfold mem_legal at ha hb
+  simp [mem_legal] at ha hb
+  rw [BitVec.le_def] at ha hb
+  rw [BitVec.le_def]
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:161]: non-terminal simps! (Please check everywhere)

File: Arm/Memory/Separate.lean [hunk 17]
```diff
@@ -115,6 +115,220 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+  rw [BitVec.lt_def, BitVec.gt_def] at h
+  rcases h with h | h
+  · sorry
+  · sorry
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:165]: Should these sorries be fixed before merging

File: Arm/Memory/Separate.lean [hunk 18]
```diff
@@ -115,6 +115,220 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+-/
+section NewDefitions
+
+/--
+`mem_legal' a n` witnessses that `(a + n)` does not overflow, and thus `[a..a+n)` is a valid range
+of memory. Note that the interval is left closed, right open, and thus `n` is the number of bytes in the memory range.
+-/
+def mem_legal' (a : BitVec 64) (n : Nat) : Prop :=
+  a.toNat + n ≤ 2^64
+
```
Comment (alexkeizer) [inline Arm/Memory/Separate.lean:241]: Presumably you introduce `mem_legal'` because it plays better with your automation, is there a reason not to refactor `mem_legal` to be defined in this way? It's equivalent, right?

**Review by alexkeizer — COMMENTED** [review]
I've left some initial thoughts, but have not gone through the entire diff

File: Arm/Memory/Separate.lean (hunk 17 above)
Comment (bollu) [reply Arm/Memory/Separate.lean:165]: No, I'd be happy to experiment with this for a bit before I prove everything correct.

File: Arm/BitVec.lean (hunk 9 above)
Comment (bollu) [reply Arm/BitVec.lean:868]: Yes, but it's nicer to unfold in a `simp` set via a `_def` lemma.

File: Arm/Memory/Separate.lean (hunk 17 above)
Comment (bollu) [reply Arm/Memory/Separate.lean]: Funnily enough, this poked me enough to just fix the sorries.

File: Arm/Memory/Separate.lean [hunk 19]
```diff
@@ -115,6 +116,245 @@ example : mem_subset (BitVec.ofNat 64 (2^64 - 1)) 0#64 0#64 (BitVec.ofNat 64 (2^
...
+      rw [BitVec.toNat_sub_eq_toNat_sub_toNat_of_le ha] at h₁ h₂
+      rw [BitVec.toNat_sub_eq_toNat_sub_toNat_of_le hb] at h₃ h₄
+      have h₅' : b1.toNat ≤ a2.toNat := by omega
+      have h₆' : a1.toNat ≤ b2.toNat := by omega
+      rw [BitVec.toNat_sub_eq_toNat_sub_toNat_of_le h₅'] at h₄
+      rw [BitVec.toNat_sub_eq_toNat_sub_toNat_of_le h₆'] at h₂
+      omega
+
+@[simp]
+theorem BitVec.neg_neg (x : BitVec w₁) : - (- x) = x := by
```
Comment (tobiasgrosser) [inline Arm/Memory/Separate.lean:148]: I am currently upstreaming this. A review comment is much appreciated:

https://github.com/leanprover/lean4/pull/4977

**Comment by bollu** [comment]
I now have the right theorems to hook into automation:
- `mem_subset_refl`+ `mem_subset_trans` to propagate subset information
- `mem_separate'_of_mem_separate'_of_mem_subset'` to produce disjointedness information from subset information.
- `read_mem_bytes_write_mem_bytes_eq_read_mem_bytes_of_mem_separate'`: to establish reads of non-interfering writes
- `read_mem_bytes_write_mem_bytes_eq_extract_LsB_of_mem_subset`: to establish results of reads of interfering writes.

This gives us the core theorems we need to write automation on top of. Along with the refactor to use (base pointer + length), life should be good from now ^^

File: Arm/State.lean [hunk 20]
```diff
@@ -118,6 +118,12 @@ deriving DecidableEq, Repr
 def PState.zero : PState :=
   { n := 0#1, z := 0#1, c := 0#1, v := 0#1 }
 
+/--
+Memory: maps 64-bit addresses to bytes.
+We use an abbreivation to write definitions that are about memory as `*`.
+-/
```
Comment (tobiasgrosser) [inline Arm/State.lean]:
```suggestion
We use an abbreviation to write definitions that are about memory as `*`.
-/
```

File: Arm/Memory/Attr.lean (hunk 12 above)
Comment (bollu) [reply Arm/Memory/Attr.lean:9]: I feel I prefer this style, 'cause it seems easier to move around.

File: Arm/Memory/SeparateAutomation.lean [hunk 21]
```diff
@@ -0,0 +1,182 @@
...
+        `[b..bn) ⊆ [b'..bn')`, and `[a'..an') ⟂ [b'...bn')`.
+    2c. If this also fails, then reduce all hypotheses to linear integer arithmetic,
+        and try to invoke `omega`.
+3. Given a proof of either `[a..an) ⟂ [b..bn)` or `[a..an) ⊆ [b..bn)`,
+  simplify using the appropriate lemma from `Mem/Separate.lean`.
+4. If we manage to prove *both* `[a..an) ⟂ [b..bn)` *and* `[a..an) ⊆ [b..bn)`,
+   declare victory as this is a contradiction. This may look useless, but feels like
+   it maybe useful to prove certain memory states as impossible.
+-/
+
```
Comment (bollu) [inline Arm/Memory/SeparateAutomation.lean:59]: @shigoel @alexkeizer A careful reading of this to make sure what I'm saying is sensible would be much appreciated.

File: Proofs/Experiments/SHA512MemoryAliasing.lean [hunk 22]
```diff
@@ -67,15 +67,18 @@ theorem sha512_block_armv8_prelude_sym_ctx_access (s0 : ArmState)
...
   (h_s0_ktbl_ctx_separate :
-    mem_separate (ctx_addr s0)   (ctx_addr s0 + 63)
-                  ktbl_addr      (ktbl_addr + (SHA2.k_512.length * 8 - 1)))
+    mem_separate' (ctx_addr s0) 64
+                  ktbl_addr  (SHA2.k_512.length * 8))
   (h_s0_ktbl_input_separate :
-    mem_separate (input_addr s0) (input_addr s0 + (num_blocks s0 * 128))
-                  ktbl_addr      (ktbl_addr + (SHA2.k_512.length * 8 - 1)))
+    mem_separate' (input_addr s0) ((num_blocks s0).toNat * 128)
+                  ktbl_addr      (SHA2.k_512.length * 8))
```
Comment (bollu) [inline Proofs/Experiments/SHA512MemoryAliasing.lean:81]: Note that we change the definitions to use `mem_separate'` since that's what the tactic expects. A careful review of this is appreciated @alexkeizer @shigoel

**Comment by bollu** [comment]
@alexkeizer @shigoel A careful review of the *description* of the proposed automation would be much appreciated. All previous comments addressed, files are ready for review!

File: Arm/Memory/SeparateAutomation.lean [hunk 23]
```diff
@@ -0,0 +1,181 @@
...
+  and can be replaced with `read_mem [a..an) mem`
+2. If `[a..an] ⊆ [b..bn)`, the write aliases the read, and can be replaced with
+  `read_mem adjust([a..an), [b..bn)) val`. Here, `adjust` is a function that
+  adjusts the read indeces `[a..an)` with respect to the write indeces `[b..bn)`,
+  to convert a read from `mem` into a read from `val`.
+
+The tactic shall be implemented as follows:
+1. Search the goal state for a term of the form `read_mem (write_mem)`
+2. Try to prove that either `[a..an) ⟂ [b..bn)`, or `[a..an) ⊆ [b..bn)`.
+    2a. First lookup the hypotheses list for these.
```
Comment (bollu) [inline Arm/Memory/SeparateAutomation.lean:48]:
```suggestion
    2a. First search the local context for assumptions of this type.
```

File: Arm/Memory/SeparateAutomation.lean [hunk 24]
```diff
@@ -0,0 +1,181 @@
...
+    2b. If this fails, deduce this from `[a..an) ⊆ [a'..an')`,
+        `[b..bn) ⊆ [b'..bn')`, and `[a'..an') ⟂ [b'...bn')`.
```
Comment (bollu) [inline Arm/Memory/SeparateAutomation.lean:50]:
```suggestion
    2b. Try to deduce `[a..an) ⟂ [b..bn)` from the fact that subsets of disjoint sets are disjoint,
        So try to find `[a'..an')`, `[b'...bn')` such that: (i) `[a..an) ⊆ [a'..an')`,
        (ii) `[b..bn) ⊆ [b'..bn')`, (iii) and `[a'..an') ⟂ [b'...bn')`.
 2c. Try to deduce `[a..an) ⊆ [b..bn)` from the fact that the subset relation is transitive.
        So try to find `[c..cn)` such that: (i) `[a..an) ⊆ [c..cn)`, (ii) `[c..cn) ⊆ [b..bn)`.

```

**Comment by bollu** [comment]
```lean
theorem sha512_block_armv8_prelude_sym_ctx_access (s0 : ArmState)
 ...
  :
  read_mem_bytes 16 (ctx_addr s0 + 48#64) s0 = SHA2.h0_512.toBitVec.extractLsBytes 48 16 := by
  simp [memory_rules]
  rw [read_mem_bytes_eq_extractLsBytes_of_subset_of_read_mem_bytes
    (hread := h_s0_ctx)]
  -- ⊢ SHA2.h0_512.toBitVec.extractLsBytes ((ctx_addr s0 + 48#64).toNat - (ctx_addr s0).toNat) 16 =
  --  SHA2.h0_512.toBitVec.extractLsBytes 48 16
  congr
  · -- ⊢ (ctx_addr s0 + 48#64).toNat - (ctx_addr s0).toNat = 48
    -- this will be done by the user, maybe we can do this as well as part of address normalizatio.
    bv_omega'
  · -- this part should be done by the tactic to establish:
    -- mem_subset' (ctx_addr s0 + 48#64) 16 (ctx_addr s0) (63 + 1)
    constructor
    · bv_omega'
    · assumption
    · bv_omega'
    · bv_omega'
```

In the proof script, we can see that we are able to simplify the read of known read pattern. The tactic should automatically establish `mem_subset'`, which I'll be automating now.

File: Arm/Memory/SeparateAutomation.lean [hunk 25]
```diff
@@ -0,0 +1,192 @@
...
+  and can be replaced with ` mem.read_bytes [a..an) `
+2. If `[a..an] ⊆ [b..bn)`, the write aliases the read, and can be replaced with
+  `val.extractLsBs adjust([a..an), [b..bn))`. Here, `adjust` is a function that
+  adjusts the read indices `[a..an)` with respect to the write indices `[b..bn)`,
+  to convert a read from `mem` into a read from `val`.
+
+The tactic shall be implemented as follows:
+1. Search the goal state for `mem.write_bytes [b..bn) val |>.read_bytes [a/..an)`.
+2. Try to prove that either `[a..an) ⟂ [b..bn)`, or `[a..an) ⊆ [b..bn)`.
+    2a. First search the local context for assumptions of this type.
```
Comment (shigoel) [inline Arm/Memory/SeparateAutomation.lean:50]: Didn't read code yet; you may have already done this but just in case:

If no mem separate/subset assumptions are present, then throw an error to tell the user that we expect them to specify such assumptions for all memory regions of interest.  LNSym doesn't support automated verification of programs that do dynamic memory allocation.

File: Arm/Memory/SeparateAutomation.lean [hunk 26]
```diff
@@ -0,0 +1,192 @@
...
+        (i) `[a..an) ⊆ [c..cn)`
+        (ii) `[c..cn) ⊆ [b..bn)`
+    2d. If this also fails, then reduce all hypotheses to
+        linear integer arithmetic, and try to invoke `omega` to prove either
+        `[a..an) ⟂ [b..bn)` or `[a..an) ⊆ [b..bn)`.
+3. Given a proof of either `[a..an) ⟂ [b..bn)` or `[a..an) ⊆ [b..bn)`,
+  simplify using the appropriate lemma from `Mem/Separate.lean`.
+4. If we manage to prove *both* `[a..an) ⟂ [b..bn)` *and* `[a..an) ⊆ [b..bn)`,
+   declare victory as this is a contradiction. This may look useless,
+   but feels like it maybe useful to prove certain memory states as impossible.
```
Comment (shigoel) [inline Arm/Memory/SeparateAutomation.lean:68]: Agreed!

File: Arm/Memory/SeparateAutomation.lean (hunk 25 above)
Comment (shigoel) [reply Arm/Memory/SeparateAutomation.lean:50]: Also, TODO for later: if any non-primed separate/subset assumptions are detected, error out to tell the user that no automation is supported in this case.

File: Proofs/Experiments/MemoryAliasing.lean [hunk 27]
```diff
@@ -7,23 +7,19 @@ The goal is to eliminate the sorry, and to simplify the proof to a tactic invoca
...
+set_option trace.simp_mem true in
+set_option trace.simp_mem.info true in
 theorem mem_automation_test
-  (h_n0 : n0 ≠ 0)
-  (h_no_wrap_src_region : mem_legal src_addr (src_addr  + ((n0 <<< 4) - 1)))
-  (h_no_wrap_dest_region : mem_legal dest_addr (dest_addr  + ((n0 <<< 4) - 1)))
-  (h_s0_src_dest_separate :
-    mem_separate src_addr  (src_addr  + ((n0 <<< 4) - 1))
-                 dest_addr (dest_addr + ((n0 <<< 4) - 1))) :
+  (h_s0_src_dest_separate : mem_separate' src_addr  16 dest_addr 16) :
```
[the remark this answers is not in the document]
Comment (shigoel) [reply Proofs/Experiments/MemoryAliasing.lean:16]: (you can use the primed definitions in the older theorem)

File: Proofs/Experiments/SHA512MemoryAliasing.lean (hunk 22 above)
Comment (shigoel) [reply Proofs/Experiments/SHA512MemoryAliasing.lean:81]: LGTM!

File: Proofs/Experiments/MemoryAliasing.lean (hunk 27 above)
[the remark this answers is not in the document]
Comment (bollu) [reply Proofs/Experiments/MemoryAliasing.lean:16]: @shigoel I thought for some reason that the version as written down was unprovable, but looking at it again, I don't see why I thought that! 

Based on that thought, I made it easier to get the first version working. 

Happy to revive it and keep it around in sorry'd fashion. I might ask you for another chat on Monday after thinking on the statement a bit more.

File: Arm/Memory/SeparateAutomation.lean (hunk 25 above)
Comment (bollu) [reply Arm/Memory/SeparateAutomation.lean:50]: Added these to the document explaining the vision of the tactic.

File: Arm/Memory/SeparateAutomation.lean [hunk 28]
```diff
@@ -0,0 +1,192 @@
...
+
+
+/-! ## Memory Separation Automation
+
+##### A Note on Notation
+
+- `[a..an)`: a range of memory starting with base address `a` of length `an`.
+  aka `mem_legal a an`.
+- `[a..an) ⟂ [b..bn)`: `mem_disjoint a an b bn`.
+- `[a..an] ⊆ [b..bn)`: `mem_subset a an b bn`
```
[the remark this answers is not in the document]
Comment (bollu) [reply Arm/Memory/SeparateAutomation.lean:32]: Yes, clarified.

File: Proofs/Experiments/MemoryAliasing.lean [hunk 29]
```diff
@@ -23,3 +23,24 @@ theorem mem_automation_test
...
 /-- info: 'mem_automation_test' depends on axioms: [propext, Classical.choice, Quot.sound] -/
 #guard_msgs in #print axioms mem_automation_test
+
+theorem mem_automation_test_2
+  (h_n0 : n0 ≠ 0)
+  (h_no_wrap_src_region : mem_legal' src_addr ((n0 <<< 4) - 1))
+  (h_no_wrap_dest_region : mem_legal' dest_addr ((n0 <<< 4) - 1))
+  (h_s0_src_dest_separate :
+    mem_separate' src_addr  ((n0 <<< 4) - 1)
+                  dest_addr ((n0 <<< 4) - 1)) :
```
Comment (shigoel) [inline Proofs/Experiments/MemoryAliasing.lean:33]:
```suggestion
    mem_separate' src_addr  (n0 <<< 4)
                  dest_addr (n0 <<< 4) :
```

**Comment by bollu** [comment]
@shigoel all comments addressed!

File: Proofs/Experiments/MemoryAliasing.lean (hunk 29 above)
Comment (shigoel) [reply Proofs/Experiments/MemoryAliasing.lean:33]: Looks like the `- 1` got left over from the non-primed defns where we need to compute the last address.

**Comment by bollu** [comment]
Aha, indeed, thanks for the `-1` catch, I just pulled it in.

File: Proofs/Experiments/MemoryAliasing.lean [hunk 30]
```diff
@@ -29,8 +29,8 @@ theorem mem_automation_test_2
   (h_no_wrap_src_region : mem_legal' src_addr ((n0 <<< 4) - 1))
   (h_no_wrap_dest_region : mem_legal' dest_addr ((n0 <<< 4) - 1))
   (h_s0_src_dest_separate :
-    mem_separate' src_addr  ((n0 <<< 4) - 1)
-                  dest_addr ((n0 <<< 4) - 1)) :
+    mem_separate' src_addr  (n0 <<< 4)
+                  dest_addr (n0 <<< 4) :
```
Comment (shigoel) [inline Proofs/Experiments/MemoryAliasing.lean:33]:
```suggestion
                  dest_addr (n0 <<< 4)) :
```

**Comment by bollu** [comment]
@shigoel I pushed a new version that fixes all the bounds.

**Review by shigoel — APPROVED** [review]
Thanks, Sid!
